US09034900B2
Examples 512-514 as described in Table 23 were prepared in three steps. Using conditions similar to those described by Malhotra, et. al. in Organic Letters 2013, Vol. 15, No. 14, pp. 3698-3701 (supporting information, compounds 4c and 3a), 3,5-dibromo-1-methylpyridin-2-one was alkylated at the 3-position using isopropylmagnesium bromide to give 5-bromo-1-methyl-3-propan-2-ylpyridin-2-one which was then reacted with 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane using conditions similar to those described in Example 248, step 2 to give the pinacol ester, 1-methyl-3-propan-2-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one. This pinacol ester was then substituted for the pinacol ester of the example shown under Synthetic Method in Table 23 and reacted in the same way as the example to obtain the title compounds.

reactant | 3,5-dibromo-1-methylpyridin-2-one | BrC=1C(N(C=C(C1)Br)C)=O | C6H5Br2NO
reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
product | 5-bromo-1-methyl-3-propan-2-ylpyridin-2-one | BrC=1C=C(C(N(C1)C)=O)C(C)C | C9H12BrNO
